US08912186B2
By a procedure similar to that of example 1.59.1, starting from 4-ethylbenzaldehyde and acetophenone, 3-(4-ethylphenyl)-1-phenylprop-2-en-1-one was obtained as yellow oil.

reactant | 4-ethylbenzaldehyde | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
product | 3-(4-ethylphenyl)-1-phenylprop-2-en-1-one | C(C)C1=CC=C(C=C1)C=CC(=O)C1=CC=CC=C1 | C17H16O
